US20010044538A1
A solution of gave 2-(4-fluorophenyl)-2-(3-nitropyridin-2-yl)-1-(pyridin-4-yl)-ethanone (2.0 g, 5.93 mmol) and pyridine (0.52 g, 6.53 mmol) in dichloromethane (30 ml) was added to a cold solution of trifluoromethanesulfonic anhydride (1.1 ml, 6.53 mmol) in dichloromethane (7 ml) at 0° C. After 1 h, the reaction mixture was poured into water (50 ml) and the product was extracted into dichloromethane. The combined organic extracts were washed with saturated sodium bicarbonate solution and brine and dried over MgSO4. Concentration in vacuo gave a brown oil which was purified by flash column chromatography (50%-60% ethyl acetate/ hexanes gradient) to give the trifluoromethanesulfonic acid 2-(4-fluorophenyl)-2-(3-nitropyridin-2-yl)-1-(pyridin-4-yl)vinyl ester as a light tan oil (1.56 g).

reactant | 2-(4-fluorophenyl)-2-(3-nitropyridin-2-yl)-1-(pyridin-4-yl)-ethanone | 5.93 mmol, 2.0 g | FC1=CC=C(C=C1)C(C(=O)C1=CC=NC=C1)C1=NC=CC=C1[N+](=O)[O-] | C18H12FN3O3
reactant | pyridine | 6.53 mmol, 0.52 g | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 6.53 mmol, 1.1 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | water | 50 ml | O | H2O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
product | trifluoromethanesulfonic acid 2-(4-fluorophenyl)-2-(3-nitropyridin-2-yl)-1-(pyridin-4-yl)vinyl ester | 1.56 g | FC1=CC=C(C=C1)C(=C(C1=CC=NC=C1)OS(=O)(=O)C(F)(F)F)C1=NC=CC=C1[N+](=O)[O-] | C19H11F4N3O5S
